US06008224
A solution of 4-t-butyl-N-[6-chloro-2-(4,6-dimethoxy-2-pyrimidinyl)-5-(2-methoxyphenoxy)-4-pyrimidinyl]benzenesulfonamide (409 mg) in anhydrous dimethylformamide (2.4 ml) was added dropwise to the above mixture while being cooled on ice. The resultant mixture was stirred for 3.5 hours at 60° C. The reaction mixture was poured into cold 1N HCl, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=20/1) to give obtain 4-t-butyl-N-[2-(4,6-di(3-hydroxypropyloxy)-2-pyrimidinyl)-6-(3-hydroxypropyloxy)-5-(2-methoxyphenoxy)-4-pyrimidinyl]benzenesulfonamide (250 mg) as a colorless oil.

reactant | 4-t-butyl-N-[6-chloro-2-(4,6-dimethoxy-2-pyrimidinyl)-5-(2-methoxyphenoxy)-4-pyrimidinyl]benzenesulfonamide | 409 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C1=NC(=CC(=N1)OC)OC | C27H28ClN5O6S
reactant | HCl | 1N | Cl | ClH
solvent | dimethylformamide | 2.4 ml | CN(C=O)C | C3H7NO
product | 4-t-butyl-N-[2-(4,6-di(3-hydroxypropyloxy)-2-pyrimidinyl)-6-(3-hydroxypropyloxy)-5-(2-methoxyphenoxy)-4-pyrimidinyl]benzenesulfonamide | 250 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCCO)C1=NC(=CC(=N1)OCCCO)OCCCO | C34H43N5O10S
